US04988689
To a stirred mixture of 23.5 parts of N-(4-fluorophenylmethyl)-1,2-benzenediamine and 14.4 parts of concentrated hydrochloric acid were added dropwise 9 parts of cyanamide at 100° C. After stirring for 3 hours at 100° C., there were added dropwise 10.5 parts of a sodium hydroxide solution 50%. Upon completion, stirring was continued overnight at reflux temperature. The reaction mixture was cooled and taken up in a mixture of water, trichloromethane and N,N-dimethylformamide. The organic phase was separated, dried, filtered and evaporated. The residue was stirred in trichloromethane. The product was filtered off and crystallized from trichloromethane, yielding 2.5 parts (9.5%) of 1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine; mp. 189.5° C. (int. 31).

reactant | N-(4-fluorophenylmethyl)-1,2-benzenediamine | FC1=CC=C(C=C1)CNC=1C(=CC=CC1)N | C13H13FN2
reactant | hydrochloric acid | Cl | ClH
reactant | cyanamide | N#CN | CH2N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine | 9.5% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)N | C14H12FN3
